US07973051B2
iv) N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-7-methoxy-1H-indole-3-sulfonamide
A suspension of 1-(benzenesulfonyl)-N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-7-methoxy-1H-indole-3-sulfonamide (cf. Ex. 43iii), 0.072 g) in 1 n sodium hydroxide (5 mL) was heated to 70° C. for 4 h. The reaction mixture was cooled down and acidified with 1N HCl to pH 4-5. The precipitate was filtered off, washed with water and dried to obtain the title compound as light brown solid. MS (ISN): m/e 429.3, 431.3 (M−H)−

reactant | 1-(benzenesulfonyl)-N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-7-methoxy-1H-indole-3-sulfonamide | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC(=C12)OC)S(=O)(=O)NC(NC=1SC(=CN1)Br)=O | C19H15BrN4O6S3
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
product | N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-7-methoxy-1H-indole-3-sulfonamide | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C1=CNC2=C(C=CC=C12)OC | C13H11BrN4O4S2
